US04605664
6,7-Dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-2-methyl-1H-inden-1-one (12 g., 0.04 mole) is dissolved in dimethylformamide (50 ml.), treated with potassium carbonate (5.5 g., 0.04 mole) and heated and stirred on a steam bath for 30 minutes. Ethyl 6-bromohexanoate (8.9 g., 0.04 mole) is added dropwise with good stirring over 15 minutes, then the mixture is heated and stirred in a steam bath for two hours. The reaction mixture is poured into water (400 ml.) and extracted with ether (2×150 ml.) The either extract is dried over sodium sulfate, filtered and the ether removed at reduced pressure. The residue, which crystallizes upon standing, is recrystallized from a mixture of ether and petroleum ether to give ethyl 6-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]hexanoate, 16 g., m.p. 69°-72° C.

reactant | 6,7-Dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-2-methyl-1H-inden-1-one | 0.04 mole, 12 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)O | C15H16Cl2O2
reactant | potassium carbonate | 0.04 mole, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl 6-bromohexanoate | 0.04 mole, 8.9 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 6-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]hexanoate | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCCCCCC(=O)OCC | C23H30Cl2O4
